US09238640B2
To a solution of 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-8-methoxy-3H-quinazolin-4-one (1.20 g, 3.53 mmol) in DMF (10 mL) were added PPh3 (1.02 g, 3.88 mmol) and CBr4 (1.29 g, 3.88 mmol). The reaction mixture was stirred at room temperature for 16 hours. Solvent was removed under reduced pressure. The residue was triturated with ether and ethyl acetate. The solid was dried under vacuum and purified by the Simpliflash system, using 2% methanol in CH2Cl2 as eluent, to give 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-8-methoxy-3H-quinazolin-4-one as a white solid. Yield: 0.547 g (38%).

reactant | 2-[4-(2-hydroxy-ethoxy)-3,5-dimethyl-phenyl]-8-methoxy-3H-quinazolin-4-one | 3.53 mmol, 1.20 g | OCCOC1=C(C=C(C=C1C)C1=NC2=C(C=CC=C2C(N1)=O)OC)C | C19H20N2O4
reactant | PPh3 | 3.88 mmol, 1.02 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 3.88 mmol, 1.29 g | C(Br)(Br)(Br)Br | CBr4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-8-methoxy-3H-quinazolin-4-one | BrCCOC1=C(C=C(C=C1C)C1=NC2=C(C=CC=C2C(N1)=O)OC)C | C19H19BrN2O3
